US08076454B2
A dry 3-neck 250 mL round bottom flask equipped with magnetic stirring and held under a nitrogen atmosphere was charged with 5.0 g 2-(3-bromo-2-methyl-phenyl)-4,4-dimethyl-4,5-dihydro-oxazole, 60 mL anhydrous THF, and 100 mg Ni(dppp)Cl2. The mixture was cooled to 15° C., and isopropyl magnesium chloride (11 mL, 2M in ethyl ether) was added. A mild exotherm took place, and the mixture darkened slightly. The reaction was stirred overnight at room temperature, at which point 1H NMR indicated 50% completion. Addition of ca 75 mg Ni(dppp)Cl2 and reflux for 3 hours resulted in no further progression of the reaction. The mixture was cooled to 15° C., and an additional 13 mL of isopropyl magnesium chloride (2M in ethyl ether) and 100 mg of nickel catalyst were added and the mixture was stirred overnight at room temperature. The reaction was quenched with saturated aqueous NH4Cl, the organic layer was removed, the aqueous layer was extracted, and the organic phases were combined and dried. The solvent was removed in vacuo to yield 3.84 g crude product as a yellow oil. Column chromatography on silica gel using 4:1 hexanes:ether as eluant yielded 0.79 g of 2-(3-isopropyl-2-methyl-phenyl)-4,4-dimethyl-4,5-dihydro-oxazole as a colorless oil. 1H NMR (CDCl3, 200 MHz), δ (ppm): 7.5 (d, 1H), 7.37 (d, 1H), 7.22 (t, 1H), 4.13 (s, 2H), 3.23 (m, 1H), 2.5 (s, 3H), 1.45 (s, 6H), 1.22 (d, 6H). The oxazoline was suspended in 34 mL of 6N HCl and refluxed in an oil bath for 6 hours. The mixture was cooled and extracted with CH2Cl2. The extract was dried over Na2SO4 and evaporated to yield 0.76 g of 3-isopropyl-2-methyl-benzoic acid, suitably pure for the next step. 1H NMR (CDCl3, 300 MHz), δ (ppm): 7.8 (d, 1H), 7.48 (d, 1H), 7.3 (t, 1H), 3.3 (m, 1H), 2.55 (s, 3H), 1.2 (d, 6H).

reactant | 2-(3-bromo-2-methyl-phenyl)-4,4-dimethyl-4,5-dihydro-oxazole | 5.0 g | BrC=1C(=C(C=CC1)C=1OCC(N1)(C)C)C | C12H14BrNO
reactant | THF | 60 mL | C1CCOC1 | C4H8O
reactant | isopropyl magnesium chloride | 2M, 11 mL | C(C)(C)[Mg]Cl
reactant | isopropyl magnesium chloride | 2M, 13 mL | C(C)(C)[Mg]Cl
catalyst | nickel | 100 mg | [Ni] | Ni
catalyst | Ni(dppp)Cl2 | 100 mg | Cl[Ni]1([P](CCC[P](C2=CC=CC=C2)1C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)Cl
catalyst | Ni(dppp)Cl2 | ca 75 mg | Cl[Ni]1([P](CCC[P](C2=CC=CC=C2)1C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)Cl
solvent | ether | CCOCC | C4H10O
product | 2-(3-isopropyl-2-methyl-phenyl)-4,4-dimethyl-4,5-dihydro-oxazole | 0.79 g | C(C)(C)C=1C(=C(C=CC1)C=1OCC(N1)(C)C)C | C15H21NO
